US08034953B2
Step 3. Methyl 4-amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carbimidothioate
A solution of 4-amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carbothioamide (130 mg, 0.4 mmol) in dichloromethane (5.2 mL) was treated with methyl trifluoromethanesulfonate (64 μL, 0.6 mmol) followed by N,N-diisopropylethylamine (102 μL, 0.6 mmol) and stirred for 1 h. The reaction mixture was diluted with dichloromethane (100 mL), washed with water (50 mL) and brine (50 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product (133 mg, 98%). LCMS for C10H9BrFN4S2 (M+H)+: m/z=346.8, 348.8.

reactant | 4-amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carbothioamide | 0.4 mmol, 130 mg | NC=1C(=NSN1)C(NC1=CC(=C(C=C1)F)Br)=S | C9H6BrFN4S2
reactant | methyl trifluoromethanesulfonate | 0.6 mmol, 64 μL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | N,N-diisopropylethylamine | 0.6 mmol, 102 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 5.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl 4-amino-N-(3-bromo-4-fluorophenyl)-1,2,5-thiadiazole-3-carbimidothioate | 133 mg, 98% | NC=1C(=NSN1)C(=NC1=CC(=C(C=C1)F)Br)SC | C10H8BrFN4S2
